Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___.
 
Chief Complaint:
chest pain  
 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
___ with a PMHx of CAD s/p DES to mid-LAD, D1, and distal RCA 
___, s/p DES to ___ ___, HIV, HCV cirrhosis, and COPD 
presenting with chest pain. The pain is non exertional, has been 
constant and worsening since 7am. The pain started at 7am on ___ 
when he awoke. The pain is left-sided, radiating down th eleft 
arm, associated with nausea. He has no diaphoresis, vomiting, 
fevers, or chills. He reports similar symptoms ___ years ago when 
he was admitted with an NSTEMI and underwent PCI s/p stenting on 
plavix.  
 
Past Medical History:
# HIV
# chronic hepatitis C with portal HTN
# HTN
# hyperlipidemia
# CAD s/p DES to mid-LAD, D1, and distal RCA ___, s/p DES to 
mLCX ___
# Grade I LV diastolic dysfunction (TTE ___
# ___ aortic regurgitation (TTE ___
# PVD
# chronic kidney disease stage II (Cr 1.4)
# COPD
# anemia of chronic disease, G6PD deficiency
# SIADH
# GERD
# chronic diarrhea
# cervical spinal stenosis
# ? pulmonary TB
# +RPR treated in the ___

 
Social History:
___
Family History:
Per OMR: 
Patient thinks mother had heart disease, but unclear what kind. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.9 144/68 71 18 99% 
wt: 62.9
I&O: ___
GENERAL: Alert, oriented, no acute distress 
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: supple, JVP above the clavicle, no LAD  
RESP: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, soft murmur noted  
ABD: Soft, NT/ND bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, trace edema to ankle
NEURO: CNs2-12 intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:  
VS: Tm 98.4 ___ 20 98%RA 
I/O: ___
Wt: 36.7 <- 62.9 <- 62.9
GENERAL: Alert, oriented, no acute distress 
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: supple, JVP above the clavicle, no LAD  
RESP: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, soft murmur noted  
ABD: Soft, NT/ND bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, trace edema to ankle
NEURO: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:
___ 01:00PM BLOOD WBC-4.2 RBC-2.55* Hgb-7.9* Hct-24.4* 
MCV-96 MCH-31.0 MCHC-32.4 RDW-12.5 RDWSD-43.8 Plt ___
___ 01:00PM BLOOD Neuts-46.4 ___ Monos-11.4 Eos-1.7 
Baso-0.2 Im ___ AbsNeut-1.95 AbsLymp-1.69 AbsMono-0.48 
AbsEos-0.07 AbsBaso-0.01
___ 09:15PM BLOOD PTT-150*
___ 01:00PM BLOOD Plt ___
___ 01:00PM BLOOD Glucose-110* UreaN-34* Creat-2.0* Na-132* 
K-4.3 Cl-101 HCO3-18* AnGap-17
___ 01:00PM BLOOD estGFR-Using this
___ 07:17PM BLOOD CK(CPK)-102
___ 01:00PM BLOOD CK(CPK)-116
___ 07:17PM BLOOD CK-MB-2 cTropnT-0.01
___ 01:00PM BLOOD cTropnT-0.02*
___ 01:00PM BLOOD CK-MB-2
___ 01:00PM BLOOD HoldBLu-HOLD
___ 01:00PM BLOOD LtGrnHD-HOLD
___ 01:00PM BLOOD GreenHd-HOLD

DISCHARGE LABS:
___ 04:35AM BLOOD WBC-4.2 RBC-2.61* Hgb-7.7* Hct-24.9* 
MCV-95 MCH-29.5 MCHC-30.9* RDW-14.2 RDWSD-49.3* Plt Ct-98*
___ 04:35AM BLOOD Plt Ct-98*
___ 04:35AM BLOOD Glucose-111* UreaN-38* Creat-1.7* Na-133 
K-4.2 Cl-106 HCO3-16* AnGap-15
___ 04:35AM BLOOD ALT-19 AST-35 AlkPhos-85 TotBili-0.2
___ 04:35AM BLOOD Albumin-3.4* Calcium-9.3 Phos-3.8 Mg-1.6
___ 01:00PM BLOOD HoldBLu-HOLD
___ 06:42AM BLOOD Lactate-1.9

STUDIES:
___ ECHO: The left atrial volume index is moderately 
increased. The estimated right atrial pressure is ___ mmHg. Mild 
symmetric left ventricular hypertrophy with normal cavity size, 
and global systolic function (biplane LVEF = 68 %). Doppler 
parameters are most consistent with Grade I (mild) left 
ventricular diastolic dysfunction. Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. Mild to moderate (___) aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal biventricular regional/global systolic function. Moderate 
left atrial enlargement. Grade I diastolic dysfunction pattern. 
Mild to moderate aortic regurgitation.

Compared with the prior study (images reviewed) of ___, no 
significant change. This study had a higher quality pressure 
half time tracing at 451 ms which falls into the mild to 
moderate severity range. However, visual comparison of the 
aortic regurgitation shows a similar degree of aortic 
regurgitation in both studies.

 
Brief Hospital Course:
___ yo PMHx of CAD s/p DES to mid-LAD, D1, and distal RCA 
___, s/p DES to mLCX ___, HIV, HCV cirrhosis, and COPD 
presenting with left sided chest pain that radiates to the L 
arm, subtle ST depressions on EKG, and trop of 0.02 consistent 
with unstable angina, now s/p cath with placement of 2 stents in 
LAD.
# unstable angina: presented with left sided nonexertional chest 
pain radiating into left arm, patient states it is the same as 
the pain he felt in ___ when he presented with prior MI. Pain 
improved with nitro. 
- nitro drip had good effect prior to cath
- s/p cath with placement of 2 stents in LAD
- continued home aspirin 81 daily, Carvedilol 25 mg PO/NG BID, 
HydrALAzine 75 mg PO/NG Q6H, Pravastatin 20 mg PO QPM 
- started Clopidogrel 75 mg PO DAILY, Lisinopril 10 mg PO DAILY, 
Amlodipine 10 mg PO DAILY
-held lasix and imdur throughout admission. pt remained 
clinically euvolemic. home lasix and imdur to be restarted as 
outpatient
#R hand swelling and pain s/p cath: post-cath, pt was 
hypertensive to 170s, had continued bleeding at site of cath (R 
radial) 2 hours s/p cath. concern for evolution into compartment 
syndrome
-plastics hand team consulted, closely followed. Improvement of 
pain and swelling on serial exams, strength preserved, no loss 
of sensation. does not need surgical intervention. cleared for 
outpatient follow up and home OT.
# acute on chronic renal disease: baseline creatinine is 
1.4-1.7, presented with creatinine of 2.0. due to planned cath 
with dye load, received prehydration with 1 U PRBC given anemia, 
as well as 250cc NS.
-held lasix throughout admission. pt remained clinically 
euvolemic. home lasix to be restarted as outpatient
# acute on chronic anemia: hx of ACD, baseline Hct 9, presenting 
Hct 7.9 - likely contributing to cardiac hypoperfusion. no high 
suspicion for acute bleeding, no episodes of acute hypotension, 
no recent trauma, has known anemia of chronic disease. received 
1 U PRBC, which was tolerated well.
#acidosis: pt found to have bicarb 15, pH 7.27 pCO2 39 pO2 57 
HCO3 19 BaseXS -8, non-anion gap acidosis. initially thought to 
be RTA ___ lamivudine, but no urine bicarb. Possibly a lactic 
acidosis from lamivudine and recent mild to moderate symptoms of 
compartment syndrome. 
-lactate normal, CK peaked at 251 
-consulted pharmacy regarding lamivudine dosing, recommended to 
restart home dose of 150mg PO daily and follow up as outpatient
# HIV 
-LaMIVudine 100 mg PO QHS adjusted for renal dysfunction, 
restarted on home dose: 150mg QHS prior to discharge as 
creatinine normalized
-Efavirenz 600 mg PO QHS
-Abacavir Sulfate 300 mg PO BID 
# Hepatitis C cirrhosis with portal HTN, s/p 12 weeks of 
Harvoni-hx of cirrhosis, monitor fluid status
# HTN - medications as above 
# hyperlipidemia -Pravastatin 20 mg PO QPM 
# GERD -Omeprazole 40 mg PO DAILY 
# COPD -Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 

TRANSITIONAL ISSUES:
[ ] held home lasix and imdur during admission; to be restarted 
on an outpatient basis as tolerated
[ ] New medication include amlodipine, plavix, lisinopril, 
pantoprazole in place of omeprazole. 
[ ] follow up with Dr. ___ cardiology
[ ] follow up with Hand surgery for assessment of right hand 
after concern for compartment syndrome. He should see 
occupational therapy for symptoms. 
[ ] Patient with non gap metabolic acidosis, thought to be RTA 
related to HAART, though unclear why new ont his presentation. 
Please consider adjustment to HIV regimen as indicated. 
[ ] uptitrate lisinopril as tolerated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simethicone 120 mg PO QID:PRN GAS 
2. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN ANGINA 
3. Desonide 0.05% Cream 1 Appl TP DAILY:PRN RASH 
4. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
5. Aspirin 81 mg PO DAILY 
6. Efavirenz 600 mg PO QHS 
7. LaMIVudine 150 mg PO DAILY 
8. Abacavir Sulfate 300 mg PO BID 
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
10. Pravastatin 20 mg PO QPM 
11. Carvedilol 25 mg PO BID 
12. HydrALAzine 75 mg PO Q6H 
13. Docusate Sodium 100 mg PO BID 
14. Omeprazole 20 mg PO DAILY 
15. Furosemide 40 mg PO DAILY 
16. Albuterol Inhaler 2 PUFF IH Q6H:PRN DYSPNEA 
17. Codeine Sulfate 30 mg PO QHS 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN DYSPNEA 
3. Aspirin 81 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Efavirenz 600 mg PO QHS 
7. HydrALAzine 75 mg PO Q6H 
8. LaMIVudine 150 mg PO DAILY 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN ANGINA 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually every 5 
minutes, up to 3 total Disp #*30 Tablet Refills:*0
10. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0
11. Codeine Sulfate 30 mg PO QHS 
12. Desonide 0.05% Cream 1 Appl TP DAILY:PRN RASH 
13. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
14. Simethicone 120 mg PO QID:PRN GAS 
15. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
16. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
17. Outpatient Occupational Therapy
___ COMPARTMENT SYNDROME, UNSPECIFIED 
Occupational Theray for Right hand pain and swelling after 
cardiac catheterization 
18. Pravastatin 20 mg PO QPM 
19. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
coronary artery disease

SECONDARY:
acute on chronic renal disease
acute on chronic anemia
concern for compartment syndrome of Right upper extremity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for chest pain. We gave you 
medications to help your heart and to treat your pain. Your 
chest pain improved. You were also found to have low blood 
levels, so you received 1 unit of blood cells. You underwent 
cardiac catheterization and a stent was placed in one of the 
vessels of your heart. After the catheterization, you were 
having some hand pain and swelling near the incision site. The 
hand specialists were consulted and assessed your hand regularly 
until the pain and swelling had improved. 

You were started on new medications including plavix 
(clopidogrel). It is very important that you continue to take 
this medication, as well as your home aspirin, to prevent clots 
from forming in your new stent. All of your medications are 
detailed in your discharge medication list. You should review 
this carefully and take it with you to any follow up 
appointments.

The details of your follow up appointments are given below.

It was a pleasure taking care of you.
Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___